US06660738B2
A solution of 0.68 g (1 mmol) (2S,4R)-5-Bromo-2-[2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidin-1-yl]-pyrimidine, 15 mg (0.022 mmol) of bis(triphenylphosphine)palladium(II)dichloride and 9.5 mg copper(I)iodide in 0.4 ml DMF was treated at 80° C. for 1 h with a solution of 0.35 ml (2.5 mmol) ethinyltrimethylsilane and 1.87 ml Et3N in 1.5 ml DMF. The same solution was added again during 1 h and after 4 h extracted with pentane (3×)/H2O (2×). The organic phase was dried (Na2SO4), evaporated and purified by flash-chromatography on silica gel (toluene) to give 0.063 g (9%) (2S,4R)-2-[2-(2,4,5-Trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidin-1-yl]-5-trimethylsilanylethynyl-pyrimidine, MS: 694 (MH+). TFA/triisopropylsilane deprotection (see General method for S-deprotection, Method D) gave (3R,5S)-5-(2,4,5-Trifluoro-benzyloxymethyl)-1-(5-trimethylsilanylethynyl-pyrimidin-2-yl)-pyrrolidine-3-thiol, MS: 452 (MH+).

reactant | (2S,4R)-5-Bromo-2-[2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidin-1-yl]-pyrimidine | 1 mmol, 0.68 g | BrC=1C=NC(=NC1)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COCC1=C(C=C(C(=C1)F)F)F | C35H29BrF3N3OS
reactant | ethinyltrimethylsilane | 2.5 mmol, 0.35 ml | C(#C)[Si](C)(C)C | C5H10Si
reactant | Et3N | 1.87 ml | CCN(CC)CC | C6H15N
solvent | DMF | 0.4 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II)dichloride | 0.022 mmol, 15 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I)iodide | 9.5 mg | [Cu]I
product | (2S,4R)-2-[2-(2,4,5-Trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidin-1-yl]-5-trimethylsilanylethynyl-pyrimidine | 0.063 g, 9% | FC1=C(COC[C@H]2N(C[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=NC=C(C=N2)C#C[Si](C)(C)C)C=C(C(=C1)F)F | C40H38F3N3OSSi
